US07649092B2
C. Synthesis of (4-benzylpiperazin-1-yl)(1-methyl-4-phenylpiperidin-4-yl)methanone
A solution of 1-methyl-4-phenylpiperidine-4-carboxylic acid hydrochloride (1.35 g, 5 mmol), benzyl piperazine 0.88 g (5 mmol), triethylamine 1 ml and EDC 1.91 g (10 mmol) and DMAP (catalytic) in 40 ml dichloromethane was stirred at room temperature overnight, concentrated, added water and extracted with ethyl acetate 2'50 ml. The combined organic solution was dried over sodium sulfate and concentrated. The residue was applied to flash column chromatography using methylene chloride and methanol (100:10) as eluents to give 1.5 g of desired product.

reactant | 1-methyl-4-phenylpiperidine-4-carboxylic acid hydrochloride | 5 mmol, 1.35 g | Cl.CN1CCC(CC1)(C(=O)O)C1=CC=CC=C1
reactant | benzyl piperazine | 5 mmol, 0.88 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | EDC | 10 mmol, 1.91 g
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (4-benzylpiperazin-1-yl)(1-methyl-4-phenylpiperidin-4-yl)methanone | 1.5 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1(CCN(CC1)C)C1=CC=CC=C1 | C24H31N3O
